US08809349B2
In one embodiment, the step comprises combining 2-chloro-6-methylbenzoyl chloride with aniline to afford 2-chloro-6-methyl-N-phenylbenzamide. In one embodiment, the step is optionally carried out in the presence of a base (e.g., an amine base such as Et3N).

reactant | 2-chloro-6-methylbenzoyl chloride | ClC1=C(C(=O)Cl)C(=CC=C1)C | C8H6Cl2O
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 2-chloro-6-methyl-N-phenylbenzamide | ClC1=C(C(=O)NC2=CC=CC=C2)C(=CC=C1)C | C14H12ClNO
